US06090833
2.41 g of 3-(trifluoromethoxy)brombenzene are dissolved in 25 ml of diethyl ether and added dropwise to a suspension of 0.28 g of magnesium in 25 ml of diethyl ether such that the solution remains at the boil. After addition is complete, the mixture is stirred under reflux for 2 h. The cooled solution is added dropwise to a solution of 1.16 ml of trimethyl borate in 25 ml of diethyl ether at a temperature of <-50° C. and then stirred at room temperature for 2 h. 5 ml of 40% strength sulfuric acid and 1.21 g of pinacol are successively added to this solution. After 30 minutes, the solvent is removed on a Rotavapor, the residue is neutralized using saturated sodium hydrogencarbonate solution and the mixture is extracted three times with methyl tert-butyl ether. The organic phase is dried over magnesium sulfate and concentrated in vacuo. 4,4,5,5-Tetramethyl-2-(3-trifluoromethoxy-phenyl)-[1,3,2]dioxaborolane is obtained, which is reacted further without further purification.

reactant | 3-(trifluoromethoxy)brombenzene | 2.41 g | FC(OC=1C=C(C=CC1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 0.28 g | [Mg] | Mg
reactant | trimethyl borate | 1.16 ml | B(OC)(OC)OC | C3H9BO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | pinacol | 1.21 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 4,4,5,5-Tetramethyl-2-(3-trifluoromethoxy-phenyl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=CC(=CC=C1)OC(F)(F)F)C | C13H16BF3O3
